US07662771B2
5-[5-(5-Chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid disodium salt
Add a solution of NaOH (739 mg, 18.5 mmol) in water (3 mL) to a suspension of 5-[5-(5-chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid (2.73 g, 9.23 mmol in water (5 mL) and stir at room temperature. Heat to 55° C. for 1 hour, filter hot solution, concentrate, place in 50-60° C. vacuum oven for 2 days. Scrape and crush solids, place in 50-60° C. vacuum oven overnight to afford the title compound (3.14 g, 100%). MS (IS) 296 (M+1)+.

reactant | NaOH | 18.5 mmol, 739 mg | [OH-].[Na+]
reactant | 5-[5-(5-chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid | ClC=1C=CC(=C(C1)C1=CC(=NO1)CCCCC(=O)O)O | C14H14ClNO4
solvent | water | 3 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 5-[5-(5-Chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid disodium salt | 3.14 g, 100% | [Na+].[Na+].ClC=1C=CC(=C(C1)C1=CC(=NO1)CCCCC(=O)[O-])O.ClC=1C=CC(=C(C1)C1=CC(=NO1)CCCCC(=O)[O-])O | InChI=1S/2C14H14ClNO4.2Na/c2*15-9-5-6-12(17)11(7-9)13-8-10(16-20-13)3-1-2-4-14(18)19;;/h2*5-8,17H,1-4H2,(H,18,19);;/q;;2*+1/p-2
